US04018931
Reacting 2-(3-aminopropylamino)benzimidazole with benzoyl isothiocyanate by the procedure of Example 46 gives N-benzoyl-N'-[3-(2-benzimidazolylamino)propyl]thiourea.

reactant | 2-(3-aminopropylamino)benzimidazole | NCCCNC=1NC2=C(N1)C=CC=C2 | C10H14N4
reactant | benzoyl isothiocyanate | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
product | N-benzoyl-N'-[3-(2-benzimidazolylamino)propyl]thiourea | C(C1=CC=CC=C1)(=O)NC(=S)NCCCNC=1NC2=C(N1)C=CC=C2 | C18H19N5OS
